US04922021
2.5 ml of a 90% hydrazine hydrate are added to a solution of 3.0 g (9.3 mmoles) of 1-phthalimido-2-[N-methyl-N-(2,6-dimethylphenyl)-amino]-propane in 30 ml of ethanol, and the mixture is boiled for one hour. Next day the mixture is processed as described in Example 11, and the crude product is distilled under reduced pressure. 1.33 g (74.5%) of 1-amino-2-[N-methyl-N-(2,6-dimethylphenyl)-amino]-propane are obtained; b.p.: 97°-99° C./53.3 Pa. The monohydrochloride of the product, prepared as described in Example 1, melts at 158°-160° C.

reactant | hydrazine hydrate | O.NN
reactant | 1-phthalimido-2-[N-methyl-N-(2,6-dimethylphenyl)-amino]-propane | 9.3 mmoles, 3.0 g | C1(C=2C(C(N1CC(C)N(C1=C(C=CC=C1C)C)C)=O)=CC=CC2)=O | C20H22N2O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-amino-2-[N-methyl-N-(2,6-dimethylphenyl)-amino]-propane | 1.33 g, 74.5% | NCC(C)N(C1=C(C=CC=C1C)C)C | C12H20N2
